US06458814B1
a) (±)-N-(4-Ethoxycarbonyl-3-phenylbutanoyl) serine methyl ester
To a solution of ethyl (±) 4-carboxy-3-phenylbutanoate (1.00 g, 4.23 mmole) in dry DMF (20 mL) was added HOBt (686 mg, 5.08 mmole), Et3N (1.77 mL, 12.69 mmole), and EDC (974 mg, 5.08 mmole). After 30 min, L-serine methyl ester hydrochloride (790 mg, 5.08 mmole) was added. After 48 hr, the mixture was concentrated under reduced pressure. The residue was taken up in CH2Cl2 (50 mL) and washed sequentially with 20 mL each H2O, saturated NaHCO3, and H2O. The organic layer was dried over MgSO4, filtered, and concentrated under reduced pressure. The residue was chromatographed on silica gel (EtOAc) to give the title compound (961 mg, 67%) as a yellow oil: MS (ES) m/e 338 (M+H)+.

reactant | ethyl (±) 4-carboxy-3-phenylbutanoate | 4.23 mmole, 1.00 g | C(=O)(O)CC(CC(=O)OCC)C1=CC=CC=C1 | C13H16O4
reactant | HOBt | 5.08 mmole, 686 mg | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | Et3N | 12.69 mmole, 1.77 mL | CCN(CC)CC | C6H15N
reactant | EDC | 5.08 mmole, 974 mg
reactant | L-serine methyl ester hydrochloride | 5.08 mmole, 790 mg | Cl.COC([C@@H](N)CO)=O
solvent | DMF | 20 mL | CN(C)C=O | C3H7NO
product | (±)-N-(4-Ethoxycarbonyl-3-phenylbutanoyl) serine methyl ester | 961 mg, 67% | COC([C@@H](NC(CC(CC(=O)OCC)C1=CC=CC=C1)=O)CO)=O | C17H23NO6
